data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4310,4930,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]#[C:19][C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]=[C:19]2[C:20](=[O:21])[O:22][CH3:23],water,298.15,10.27789802328684,-38.5523490341884
2874,3193,[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)=[N+:35]([CH3:36])[C-:37]([C:38]#[N:39])[C:40]([CH3:41])=[O:42]>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:35]([CH3:36])[C:37]2([C:38]#[N:39])[C:40]([CH3:41])=[O:42],water,298.15,37.150513588111785,-24.83321872981641
1976,2193,[CH3:15][O:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[O:26][CH3:27])[o+:28]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([F:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([F:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]1([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21](=[O:22])[C:23]2([C:24](=[O:25])[O:26][CH3:27])[O:28]1,water,298.15,13.353269534938992,-35.484674739583944
1413,1555,[CH3:16][O:17][C:18](=[O:19])[C-:20]([CH3:21])[N+:22]#[C:23][C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:23]([C:24]([CH3:25])=[O:26])=[N:22][C:20]2([C:18]([O:17][CH3:16])=[O:19])[CH3:21],water,298.15,26.7023264071932,-33.334249566496226
379,411,[CH3:13][C:14](=[O:15])[CH:16]=[NH+:17][CH-:18][C:19]#[N:20].[CH3:1][C:2](=[O:3])[C:4]([F:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[CH:16]([C:14]([CH3:13])=[O:15])[NH:17][CH:18]1[C:19]#[N:20],water,298.15,17.360756708806306,-14.809794227733336
5022,5710,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,37.017337522673024,-0.3027959036889127
802,869,[CH3:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:18]([C:16]([CH3:15])=[O:17])=[N:19][N:20]3[C:21]([CH3:22])=[O:23],water,298.15,14.812076950580034,-62.594941425841725
1962,2175,[CH3:12][N+:13](=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C-:27]([C:28]#[N:29])[C:30]#[N:31].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:27]([C:28]#[N:29])([C:30]#[N:31])[N:13]([CH3:12])[C:14]2([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,42.29512404357463,-5.562121689316998
3116,3507,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([CH3:14])([CH3:15])[N:12]=[C:11]1[CH3:10],water,298.15,18.914644174137443,-42.47155681232806
3776,4326,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C-:7]([N+:8]#[C:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]1[CH2:2][C:7]([C:5]([O:4][CH3:3])=[O:6])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:8]=[C:9]1[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1,water,298.15,13.638648201051687,-43.08823605317022
343,373,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[NH:16][CH:17]2[C:18]([CH3:19])=[O:20],water,298.15,12.478960760139628,-40.1872299912571
